US05864039
To a solution of cis-1-tert-butoxycarbonyl-3-hydroxy-4-methanesulfonyloxymethylpiperidine (2.0 g) in dimethylformamide (40 ml) was added potassium phthalimide (1.44 g), and the resulting mixture was stirred at 60° C. for 7 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and brine, and dried. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give 2.4 g of cis-1-tert-butoxycarbonyl-4-(2,3-dihydro-1,3-dioxo-1 H-isoindol-2-yl)methyl-3-hydroxypiperidine.

reactant | cis-1-tert-butoxycarbonyl-3-hydroxy-4-methanesulfonyloxymethylpiperidine | 2.0 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)COS(=O)(=O)C)O | C12H23NO6S
reactant | potassium phthalimide | 1.44 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | Water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | cis-1-tert-butoxycarbonyl-4-(2,3-dihydro-1,3-dioxo-1 H-isoindol-2-yl)methyl-3-hydroxypiperidine | 2.4 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)CN1C(C2=CC=CC=C2C1=O)=O)O | C19H24N2O5
